US04044150
A solution of sodium methoxide prepared from sodium (0.23 g., 0.01 gram atom) and 15 ml. of methanol is mixed with a solution of 4'-[1-hydroxy-2-[(2-phenoxyethyl)amino]ethyl]methanesulfonanilide (3.5 g., 0.01 mole) in 50 ml. of methanol. Anhydrous ether is added to precipitate the sodium salt or the methanolic solution is concentrated under reduced pressure to provide 4'-[1-hydroxy-2-[(2-phenoxyethyl)amino]ethyl]methanesulfonanilide sodium salt.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.23 g | [Na] | Na
reactant | methanol | CO | CH4O
reactant | 4'-[1-hydroxy-2-[(2-phenoxyethyl)amino]ethyl]methanesulfonanilide | 0.01 mole, 3.5 g | OC(CNCCOC1=CC=CC=C1)C1=CC=C(NS(=O)(=O)C)C=C1 | C17H22N2O4S
solvent | ether | CCOCC | C4H10O
product | 4'-[1-hydroxy-2-[(2-phenoxyethyl)amino]ethyl]methanesulfonanilide sodium salt | [Na].OC(CNCCOC1=CC=CC=C1)C1=CC=C(NS(=O)(=O)C)C=C1 | InChI=1S/C17H22N2O4S.Na/c1-24(21,22)19-15-9-7-14(8-10-15)17(20)13-18-11-12-23-16-5-3-2-4-6-16;/h2-10,17-20H,11-13H2,1H3;
